US06251917B1
a) (S)-2-Phenyl-N-(3-phenylpropan-1-ol-2-yl)benzamide
2 g (10 mmol) of 2-phenylbenzoic acid were reacted with (S)-2-amino-3-phenyl-1-propanol by the method of procedure 3a, affording 2.1 g (64%) of the product.

reactant | 2-phenylbenzoic acid | 10 mmol, 2 g | C1(=CC=CC=C1)C1=C(C(=O)O)C=CC=C1 | C13H10O2
reactant | (S)-2-amino-3-phenyl-1-propanol | N[C@H](CO)CC1=CC=CC=C1 | C9H13NO
product | (S)-2-Phenyl-N-(3-phenylpropan-1-ol-2-yl)benzamide | 2.1 g, 64% | C1(=CC=CC=C1)C1=C(C(=O)N[C@H](CO)CC2=CC=CC=C2)C=CC=C1 | C22H21NO2
